US08426448B2
Add di-tert-butyldicarbonate (10.4 g, 48 mmol) to a solution of 1-methyl-1-pyridin-2-yl-ethylamine (6.5 g, 48 mmol) in dichloromethane (65 mL). Add N,N-dimethyl-4-pyridinamine (120 mg, 1.0 mmol) and stir the reaction at room temperature overnight. Remove the solvents by evaporation, then purify the residue over silica eluting with 25% EtOAc:hexanes to give (1-methyl-1-pyridin-2-yl-ethyl)-carbamic acid tert-butyl ester as a yellow oil. (2.3 g, 20%). LC-MS ESI m/z: 237.2 (M+H)+, Tr=1.08 min., method 2.

reactant | di-tert-butyldicarbonate | 48 mmol, 10.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-methyl-1-pyridin-2-yl-ethylamine | 48 mmol, 6.5 g | CC(C)(C1=NC=CC=C1)N | C8H12N2
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethyl-4-pyridinamine | 1.0 mmol, 120 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (1-methyl-1-pyridin-2-yl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)(C1=NC=CC=C1)C)=O | C13H20N2O2
